US07250427B2
2-{4-[1-(4-Methoxy-benzyl)-piperidin-3-ylmethoxy]-phenyl}-1H-benzoimidazole-5-carboxylic acid amide
This compound was prepared using the methods outlined in Example 27, substituting 2-[4-(piperidin-3-ylmethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide for 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide and p-anisaldehyde for p-tolualdehyde. HPLC (Method C): Rt=4.42. MS (ESI+): mass calcd. for C28H30N4O3, 470.58; m/z found, 471.4 [M+H]+. 1H NMR (500 MHz, CD3OD): 8.14 (s, 1H), 8.01 (d, J=8.8 Hz, 2H), 7.86 (dd, J=1.5, 8.7 Hz, 1H), 7.64 (d, J=8.8 Hz, 1H), 7.34 (d, J=8.8 Hz, 2H), 7.10 (d, J=8.8 Hz, 2H), 6.95 (d, J=8.8 Hz, 2H), 4.21-4.19 (m, 2H), 4.07-4.04 (m, 1H), 3.95-3.92 (m, 1H), 3.74(s, 3H), 3.61-3.56 (m, 1H), 3.44-3.40 (m, 1H), 2.00-1.89 (m, 2H), 1.79-1.67 (m, 1H), 1.45-1.35 m, 1H).

reactant | 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide | N1C(CCCC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C21H24N4O2
reactant | p-anisaldehyde | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | p-tolualdehyde | C1(=CC=C(C=C1)C=O)C | C8H8O
product | 2-{4-[1-(4-Methoxy-benzyl)-piperidin-3-ylmethoxy]-phenyl}-1H-benzoimidazole-5-carboxylic acid amide | COC1=CC=C(CN2CC(CCC2)COC2=CC=C(C=C2)C2=NC3=C(N2)C=CC(=C3)C(=O)N)C=C1 | C28H30N4O3
